US06610692B1
Step A: 4-Fluoro-3-(1-hydroxyethyl)benzonitrile
To a solution of 5-cyano-2-fluorobenzaldehyde (1.50 g, 10.06 mmol) in THF (15 mL) cooled to 0° C. was added methyllithium (7.90 mL, 11.06 mmol). The mixture was stirred at room temperature for 2 h and quenched by the addition of saturated NH4Cl (10 mL). The mixture was partitioned between ethyl acetate (50 mL) and water (20 mL), the organic was washed with water (20 mL), dried over magnesium sulfate and concentrated in vacuo to provide a residue. Purification via flash column chromatography (30×150 mm column; elution with EtOAc: Hex, 1:2) afforded pure compound:

reactant | 5-cyano-2-fluorobenzaldehyde | 10.06 mmol, 1.50 g | C(#N)C=1C=CC(=C(C=O)C1)F | C8H4FNO
reactant | methyllithium | 11.06 mmol, 7.90 mL | C[Li]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-3-(1-hydroxyethyl)benzonitrile | FC1=C(C=C(C#N)C=C1)C(C)O | C9H8FNO
